US06649701B1
Under nitrogen in a 100 mL glass reactor, butyl acrylate (50.0 mL, 44.7 g, 348.9 mmol) was polymerized using diethyl 2,5-dibromoadipate (1.570 g, 4.36 mmol) as the initiator and copper (I) bromide and pentamethyldiethylenetriamine as the catalyst at 70° C. with stirring. After 100 minutes, 1,7-octadiene (0.64 mL, 480 mg, 4.36 mmol) was added and the mixture was further stirred under heating at 70 ° C. for 300 minutes. The mixture was treated with activated alumina. GPC analysis (polystyrene equivalent method) of the resulting polymer revealed that the number average molecular weight and weight average molecular weight immediately prior to addition of 1,7-octadiene were Mn=10400 and Mw=13100, respectively, and that the final number average molecular weight and weight average molecular weight were Mn=13600 and Mw=19100, indicating the occurrence of coupling reactions.

reactant | diethyl 2,5-dibromoadipate | 4.36 mmol, 1.570 g | BrC(C(=O)OCC)CCC(C(=O)OCC)Br | C10H16Br2O4
reactant | pentamethyldiethylenetriamine | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | 1,7-octadiene | 4.36 mmol, 0.64 mL, 480 mg | C=CCCCCC=C | C8H14
catalyst | copper (I) bromide | [Cu]Br
product | butyl acrylate | 348.9 mmol, 50.0 mL, 44.7 g | C(C=C)(=O)OCCCC | C7H12O2
